US08912329B2
4-Ethyl-1-phenethyl-1H-pyrrol-2(5H)-one is synthesized by a cyclocondensation between methyl 3-formylpentanoate and 2-phenylethylamine in glacial acetic acid at 70° C. according to a procedure of R. Fisher (DE 4127111, 1992)

reactant | methyl 3-formylpentanoate | C(=O)C(CC(=O)OC)CC | C7H12O3
reactant | 2-phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Ethyl-1-phenethyl-1H-pyrrol-2(5H)-one | C(C)C1=CC(N(C1)CCC1=CC=CC=C1)=O | C14H17NO
